US04302464
C. 1-(2-dimethylamino-4-pyridyl)-1-ethanone oxime
To 3.1 g. (45 mmoles) of hydroxylamine hyrochloride in 25 ml. of water and 22.5 ml. of 2 N sodium hydroxide solution was added 4.31 g. (26 mmoles) of 1-(2-dimethylamino-4-pyridyl)-1-ethanone, and the mixture was heated to boiling. After 5 minutes, methanol was added until the mixture became homogeneous. Heating was continued until a precipitate started to appear, and the mixture was then cooled. The solids were filtered, washed with water and dried. Recrystallization from toluene gave 4.03 g. (86%) of product, m.p. 145°-148° C.

reactant | hydroxylamine hyrochloride | 45 mmoles | Cl.NO
reactant | water | O | H2O
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
reactant | 1-(2-dimethylamino-4-pyridyl)-1-ethanone | 26 mmoles | CN(C1=NC=CC(=C1)C(C)=O)C | C9H12N2O
solvent | methanol | CO | CH4O
product | 1-(2-dimethylamino-4-pyridyl)-1-ethanone oxime | CN(C1=NC=CC(=C1)C(C)=NO)C | C9H13N3O
